US06548495B2
{5-Methyl-2-[3-oxo-3-(3-pyrazol-1-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic Acid tert-Butyl Ester
The title compound was prepared (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J15) (290 mg, 1.0 mmol) and 3-oxo-3-(3-pyrazol-1-yl-phenyl)-propionic acid tert-butyl ester (Example K12) (286 mg, 1.0 mmol) according to the general procedure M. Obtained as a white solid (370 mg, 74%).

reactant | (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 1.0 mmol, 290 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)N)=O | C13H17F3N2O2
reactant | 3-oxo-3-(3-pyrazol-1-yl-phenyl)-propionic acid tert-butyl ester | 1.0 mmol, 286 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=CC=C1)=O)=O | C16H18N2O3
product | {5-Methyl-2-[3-oxo-3-(3-pyrazol-1-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic Acid tert-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)NC(CC(C1=CC(=CC=C1)N1N=CC=C1)=O)=O)=O | C25H25F3N4O4
